US05066658
To a solution of decyl isocyanate (19.6 g, 0.11 mol) in 1,2-dichloroethane (100 ml) was added a solution of benzyloxyamine (0.114 mol) in methylene chloride (100 ml). The solution was refluxed for 20 minutes, evaporated, and the residue triturated with pentane to give N-benzyloxy-N'-decylurea as a white solid (22.36 g, 67% yield). This urea (2.95 g, 10 mmol) was dissolved in DMF (30 ml) at 40° C. Sodium hydride (425 mg of a 60% dispersion in oil) was added. Within 15 minutes, a precipitate formed. After 30 minutes, methyl iodide (0.64 ml) was added, and the mixture was stirred for one hour at room temperature. The resulting solution was poured in 1% HCl, and the resulting solid was washed with water, collected by filtration, and air-dried. Recrystallization from pentane provided N-benzyloxy-N-methyl-N'-decylurea as a white solid (2.25 g, 73% yield). Hydrogenolysis as in Example 2 above, and recrystallization from ethanol-water, provided the title compound as a white solid (1.43 g, 91% yield), mp 74°-76° C.

reactant | decyl isocyanate | 0.11 mol, 19.6 g | C(CCCCCCCCC)N=C=O | C11H21NO
reactant | benzyloxyamine | 0.114 mol | C(C1=CC=CC=C1)ON | C7H9NO
solvent | 1,2-dichloroethane | 100 ml | ClCCCl | C2H4Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-benzyloxy-N'-decylurea | 22.36 g, 67% yield | C(C1=CC=CC=C1)ONC(=O)NCCCCCCCCCC | C18H30N2O2
